US08236756B2
Fmoc-Val-Pro-doxorubicin (F)
A solution of Fmoc-Val-Pro-OH and doxorubicin. HCl (50 mg, 0.08 mmol) in DMSO (4 mL), was successively treated at room temperature with N-[(dimethylamino)1H-1,2,3-triazolo[4,5-b]pyridino-1-ylmethylene]-N-methylmethanaminium hexafluorophosphate N-oxide (HATU) (36.0 mg, 0.09 mmol) and diisopropylethylamine (DIEA) (29.5 μL, 0.17 mmol). The reaction mixture was stirred at room temperature overnight. Then, the solvent was lyophilized and the residue was dissolved in ethyl acetate and washed with citric acid (10%), NaHCO3 (10%) and brine. The organic layer was dried (Na2SO4) and evaporated to dryness to give F (45% yield).

reactant | Fmoc-Val-Pro-OH | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C25H28N2O5
reactant | doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
reactant | HCl | 0.08 mmol, 50 mg | Cl | ClH
reactant | diisopropylethylamine | 0.17 mmol, 29.5 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Fmoc-Val-Pro doxorubicin | 45% yield | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | InChI=1S/C27H29NO11.C25H28N2O5/c1-10-22(31)13(28)6-17(38-10)39-15-8-27(36,16(30)9-29)7-12-19(15)26(35)21-20(24(12)33)23(32)11-4-3-5-14(37-2)18(11)25(21)34;1-15(2)22(23(28)27-13-7-12-21(27)24(29)30)26-25(31)32-14-20-18-10-5-3-8-16(18)17-9-4-6-11-19(17)20/h3-5,10,13,15,17,22,29,31,33,35-36H,6-9,28H2,1-2H3;3-6,8-11,15,20-22H,7,12-14H2,1-2H3,(H,26,31)(H,29,30)/t10-,13-,15-,17-,22+,27-;21-,22-/m00/s1
